US05990116
a) 4-Amino-6-iodo-quinazoline
500 mg of 4-chloro-6-iodo-quinazoline are treated with 30 ml of aqueous ammonium hydroxide solution and heated to reflux for 2 hours. After cooling the precipitated title compound is filtered and dried.

reactant | 4-chloro-6-iodo-quinazoline | 500 mg | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | ammonium hydroxide | 30 ml | [OH-].[NH4+]
product | 4-Amino-6-iodo-quinazoline | NC1=NC=NC2=CC=C(C=C12)I | C8H6IN3
